US05650406
5-methoxy-2-adamantanone:
THF 5 ml solution of 5-hydroxy-2-adamantanone 100 mg and methyl iodide 0.113 ml was cooled at 0° C., and sodium hydride (60%, oil suspension) 48.2 mg was added therein, and the temperature of the reaction mixture was gradually changed to room temperature, then stirred for 25 hours. The reaction mixture was cooled again, and water was added thereto, then THF was removed by concentration in vacuo. The thus obtained residue was extracted with chloroform and dried by adding anhydrous sodium sulfate. After separation of the drying agent, the filtrate was concentrated in vacuo. Residue was purified by means of silica gel column chromatography (Wako gel, C200, n-hexane: ethyl acetate=10:1) to obtain the product.

reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | 5-hydroxy-2-adamantanone | 100 mg | OC12CC3C(C(CC(C1)C3)C2)=O | C10H14O2
reactant | methyl iodide | 0.113 ml | CI | CH3I
reactant | sodium hydride | 48.2 mg | [H-].[Na+]
solvent | water | O | H2O
product | 5-methoxy-2-adamantanone | COC12CC3C(C(CC(C1)C3)C2)=O | C11H16O2
